US08895547B2
Cyclohexyl-[6,6-dimethyl-4,4-dioxo-5-(3-pyrimidin-5-ylphenyl)-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]amine
Under inert gas, 80 mg of [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]cyclohexylamine, 30 mg of pyrimidine-5-boronic acid and 251 mg of cesium carbonate were dissolved in a mixture of 1.2 ml of dioxane and 0.4 ml of water. After purging with argon for 10 minutes, 15 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium were added and the reaction mixture was stirred at 80° C. for 2 hours. After cooling to room temperature, the mixture was admixed with 50 ml of ethyl acetate and washed with 15 ml of water and 15 ml of saturated aqueous sodium chloride solution, and the organic phase was dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined and lyophilized. This gave the product (6.4 mg) with a molecular weight of 414.5 g/mol (C21H26N4O3S); MS (ESI): m/e=415 (M+H+).

reactant | [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]cyclohexylamine | 80 mg | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)NC1CCCCC1)(=O)=O | C17H23BrN2O3S
reactant | pyrimidine-5-boronic acid | 30 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 251 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.4 ml | O | H2O
product | Cyclohexyl-[6,6-dimethyl-4,4-dioxo-5-(3-pyrimidin-5-ylphenyl)-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]amine | 6.4 mg | C1(CCCCC1)NC=1OC(C(S(N1)(=O)=O)C1=CC(=CC=C1)C=1C=NC=NC1)(C)C | C21H26N4O3S
